US06458780B1
DMF (8 ml) was added to 40 ml of dichloromethane. The mixture was cooled in an argon atmosphere to 0° C. A solution of 9 ml of phosphorus oxychloride in 40 ml of dichloromethane was added dropwise thereto. Further, a solution of 1.2 g of 5-methylimidazo[5,1-b]thiazole in 20 ml of dichloromethane was added dropwise thereto. The mixture was heated under reflux for 5 hr. The reaction solution was poured into iced water, and then adjusted to pH 10 by the addition of an aqueous sodium hydroxide solution. The mixture was extracted with dichloromethane. The extract was dried over magnesium sulfate. The solvent was then concentrated under the reduced pressure. The residue was purified by chromatography on silica gel to give 1.5 g of 7-formyl-5-methylimidazo[5,1-b]thiazole.

reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-methylimidazo[5,1-b]thiazole | 1.2 g | CC1=NC=C2SC=CN21 | C6H6N2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 7-formyl-5-methylimidazo[5,1-b]thiazole | 1.5 g | C(=O)C=1N=C(N2C1SC=C2)C | C7H6N2OS
